US08013010B2
3-(1,3,5-Trimethyl-1H-pyrazol-4-yl)phenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside
By carrying out the operation analogously to example 3, starting from 3-bromophenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside, obtained according to preparation VII, and 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,5-trimethyl-1H-pyrazole, the expected product is obtained in the form of a white solid with a yield of 46%.

reactant | 3-bromophenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside | C(C)(=O)O[C@H]1[C@H](OC2=CC(=CC=C2)Br)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C17H19BrO7S
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,5-trimethyl-1H-pyrazole | CC1(OB(OC1(C)C)C=1C(=NN(C1C)C)C)C | C12H21BN2O2
product | 3-(1,3,5-Trimethyl-1H-pyrazol-4-yl)phenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside | yield of 46% | C(C)(=O)O[C@H]1[C@H](OC2=CC(=CC=C2)C=2C(=NN(C2C)C)C)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C23H28N2O7S
